US06358973B1
2-(3,5-Dichloro-pyridin-4-yl)-N-[2-(3-methoxy-phenyl)-butyl]-acetamide
By working in a way similar to that described in example 4 but using (3,5-dichloro-pyridin-4-yl)-acetic acid (2.06 g, 10 mmoles), carbonyldiimidazole (1.78 g, 11 mmoles), THF (30 ml) and 2-(3-methoxy-phenyl)-butylamine (1.79 g, 10 mmoles), obtained as described in example 25, 3.55 g of the title compound were obtained (yield: 96.7%). m.p.: 104-105° C.

reactant | (3,5-dichloro-pyridin-4-yl)-acetic acid | 10 mmoles, 2.06 g | ClC=1C=NC=C(C1CC(=O)O)Cl | C7H5Cl2NO2
reactant | carbonyldiimidazole | 11 mmoles, 1.78 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-(3-methoxy-phenyl)-butylamine | 10 mmoles, 1.79 g | COC=1C=C(C=CC1)C(CN)CC | C11H17NO
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-(3,5-Dichloro-pyridin-4-yl)-N-[2-(3-methoxy-phenyl)-butyl]-acetamide | 3.55 g, yield: 96.7% | ClC=1C=NC=C(C1CC(=O)NCC(CC)C1=CC(=CC=C1)OC)Cl | C18H20Cl2N2O2
